US07501516B2
3-cyano-6-methoxy-4-(2,3-methylenedioxyphenoxy)-7-[3-(4-methylpiperazin-1-yl)propoxy]quinoline
Potassium carbonate-(0.055 g) was added to a solution of 2,3-methylenedioxyphenol (0.041 g) in DMF (3 ml) and the mixture was stirred at ambient temperature for 10 minutes. 4-Chloro-3-cyano-6-methoxy-7-[3-(4-methylpiperazin-1-yl)propoxy]quinoline (0.1 g) was added and the mixture was stirred and heated to 95° C. for 2 hours. The resultant mixture was cooled to ambient temperature and filtered. The filtrate was evaporated and the residue was purified by colum chromatography on silica using initially increasingly polar mixtures of methylene chloride and methanol followed by increasingly polar mixtures of methylene chloride and a saturated methanolic ammonia solution as eluent. There was thus obtained the title compound as a solid (0.069 g); NMR Spectrum: (DMSOd6 and CF3CO2D) 2.3-2.4 (m, 2H), 3.0 (s, 3H), 3.2-4.0 (m, 8H), 3.5 (m, 2H), 3.95 (s, 3H), 4.4 (m, 2H), 6.05 (s, 2H), 6.8 (m, 1H), 6.9 (m, 2H), 7.6 (s, 1H), 7.62 (s, 1H), 9.1 (s, 1H); Mass Spectrum: M+H+ 477.

reactant | Potassium carbonate- | 0.055 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2,3-methylenedioxyphenol | 0.041 g | C1OC2=C(C=CC=C2O1)O | C7H6O3
reactant | 4-Chloro-3-cyano-6-methoxy-7-[3-(4-methylpiperazin-1-yl)propoxy]quinoline | 0.1 g | ClC1=C(C=NC2=CC(=C(C=C12)OC)OCCCN1CCN(CC1)C)C#N | C19H23ClN4O2
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 3-cyano-6-methoxy-4-(2,3-methylenedioxyphenoxy)-7-[3-(4-methylpiperazin-1-yl)propoxy]quinoline | 0.069 g | C(#N)C=1C=NC2=CC(=C(C=C2C1OC1=C2C(=CC=C1)OCO2)OC)OCCCN2CCN(CC2)C | C26H28N4O5
